US08003785B2
To a mixture of 0.08 g (0.18 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.13 mL (0.72 mmole) of ethyldiisopropyl amine and 0.013 g (0.20 mmole) of methylamine hydrochloride in 2.0 mL of dimethylformamide was added 0.085 g (0.20 mmole) of 1-(di-1-pyrrolidinylmethylene)-1H-benzotriazolium 3-oxide hexafluorophosphate. The mixture was stirred at room temperature for 1 hour, then diluted with 10 mL of ice water. The resulting solid was collected by filtration, washed with saturated sodium carbonate and water, and dried under vacuum. Purification by silica gel chromatography, eluting with hexane-ethylactate (gradient, 50:50-0:100) gave 0.062 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-methyl-benzamide (I-24) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.18 mmole, 0.08 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | ethyldiisopropyl amine | 0.72 mmole, 0.13 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methylamine hydrochloride | 0.20 mmole, 0.013 g | Cl.CN
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-methyl-benzamide | 0.062 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC)C=C2)OC | C22H26F2N6O3
